US07576215B2
METHYL-4-[(4-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}PHENOXY) METHYL]BENZOATE
The title compound was prepared from 4-{3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]-phen-oxy}phenol (0.1 g, 0.0002 mole) and 4-Bromomethyl-benzoic acid methyl ester (0.057 g, 0.00024 mole) following the procedure of Example 478: MS (ESI) [M+H]+), 620.0.

reactant | 4-{3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]-phen-oxy}phenol | 0.0002 mole, 0.1 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC2=CC=C(C=C2)O)C=CC1)C(F)(F)F | C29H20F3NO2
reactant | 4-Bromomethyl-benzoic acid methyl ester | 0.00024 mole, 0.057 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
product | METHYL-4-[(4-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}PHENOXY) METHYL]BENZOATE | COC(C1=CC=C(C=C1)COC1=CC=C(C=C1)OC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)CC1=CC=CC=C1)=O | C38H28F3NO4
